US03943169
To a mixture of 2.1 parts by weight of 1,2,4-triethoxybenzene, 1.2 part by weight of maleic anhydride and 30 parts by volume of carbon tetrachloride is added 5.2 parts by weight of anhydrous aluminum chloride. The mixture is stirred for 1 hour and heated at 50°C for another 1 hour. After cooling, concentrated hydrochloric acid and ice are added to the mixture. The mixture is extracted with methylenechloride and the methylenechloride layer is washed with water and dried over anhydrous sodium sulfate. Upon removing the solvent by distillation, 3-(2',4',5'-triethoxybenzoyl)-trans-acrylic acid is obtained as crystals. Recrystallization from a mixture of ethanol and benzene gives yellow needles melting at 192°-194°C.

reactant | 1,2,4-triethoxybenzene | C(C)OC1=C(C=C(C=C1)OCC)OCC | C12H18O3
reactant | maleic anhydride | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | Cl | ClH
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-(2',4',5'-triethoxybenzoyl)-trans-acrylic acid | C(C)OC1=C(C(=O)/C=C/C(=O)O)C=C(C(=C1)OCC)OCC | C16H20O6
